US08445495B2
To a 0° C. solution of triphosgene (959 mg, 3.24 mmol, 0.35 equiv) in THF (45 mL) was slowly added via cannula a solution of tert-butyl 4-(3-amino-2-fluorobenzyl)piperazine-1-carboxylate (2.86 g, 9.25 mmol, 1.0 equiv) and DIPEA (3.2 mL, 18.5 mmol, 2.0 equiv) in THF (25 mL) over approximately 20 minutes. The solution was stirred for an additional 15 min at 0° C., and 4-amino-2-methylpyridine was then added. After stirring at room temperature for 72 h, the reaction was diluted with EtOAc, washed with aq. satd. NaHCO3 and brine, dried over sodium sulfate, filtered and concentrated in vacuo. Purification by reverse phase preparative HPLC provided tert-butyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)piperazine-1-carboxylate (1.77 g, 43%). LCMS m/z (APCI)=444.3 (M+H).

reactant | triphosgene | 3.24 mmol, 959 mg, 0.35 equiv | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | tert-butyl 4-(3-amino-2-fluorobenzyl)piperazine-1-carboxylate | 9.25 mmol, 2.86 g, 1.0 equiv | NC=1C(=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C16H24FN3O2
reactant | DIPEA | 18.5 mmol, 3.2 mL, 2.0 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-amino-2-methylpyridine | NC1=CC(=NC=C1)C | C6H8N2
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(2-fluoro-3-(3-(2-methylpyridin-4-yl)ureido)benzyl)piperazine-1-carboxylate | 1.77 g, 43% | FC1=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1NC(=O)NC1=CC(=NC=C1)C | C23H30FN5O3
